US04227000
Crude ethyl 2-formyl-3-(3,4,5-trimethoxyphenyl)-propionate (7.41 g) was reacted with nitroguanidine (2.62 g) and sodium methoxide in refluxing methanol for 40 hours to give 2-nitroamino-5-(3,4,5-trimethoxybenzyl)-4-pyrimidone in 13% yield.

reactant | ethyl 2-formyl-3-(3,4,5-trimethoxyphenyl)-propionate | 7.41 g | C(=O)C(C(=O)OCC)CC1=CC(=C(C(=C1)OC)OC)OC | C15H20O6
reactant | nitroguanidine | 2.62 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-nitroamino-5-(3,4,5-trimethoxybenzyl)-4-pyrimidone | 13% yield | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C14H16N4O6
